US08026236B2
Mesyl chloride (0.924 mmol, 71.5 μl, 106 mg) was added to a stirred solution of 6-(hydroxymethyl)-N,N-dimethylpicolinamide (0.616 mmol, 111 mg) and DIPEA (1.232 mmol, 204 μl, 159 mg) in DCM (2000 μl) at 0° C. The reaction was allowed to warm to room temperature and stirred for two hours. The mixture was diluted with EtOAc (20 mL) and an excess of MeOH added. Stirring was continued for 15 minutes then the mixture washed with water. Organics were dried over sodium sulphate and solvent evaporated. NMR showed desired product obtained but MsCl remaining. The residue was re-dissolved in DCM and MeOH and heated to 40° C. for 15 minutes. Solvent was evaporated under reduced pressure to yield 6-(chloromethyl)-N,N-dimethylpicolinamide. 1H NMR (CDCl3) δ: 7.88 (t, 1H), 7.62 (d, 1H), 7.52 (d, 1H), 5.34 (s, 2H), 3.15 (s, 6H).

reactant | Mesyl chloride | 0.924 mmol, 71.5 μl, 106 mg | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 6-(hydroxymethyl)-N,N-dimethylpicolinamide | 0.616 mmol, 111 mg | OCC1=CC=CC(=N1)C(=O)N(C)C | C9H12N2O2
reactant | DIPEA | 1.232 mmol, 204 μl, 159 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | MeOH | CO | CH4O
reactant | MsCl | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 2000 μl | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 6-(chloromethyl)-N,N-dimethylpicolinamide | ClCC1=CC=CC(=N1)C(=O)N(C)C | C9H11ClN2O
